US09422292B2
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (9.4 g, 42.7 mmol) in tetrahydrofuran (100 mL) were added methyl 3-amino-2-methylpropanoate (5 g, 42.7 mmol) and potassium carbonate (11.8 g, 85.4 mmol). The reaction mixture was stirred with refluxing for 3 hours. The mixture was diluted with water (100 mL), extracted with ethyl acetate (100 mL×3). The organic layers were separated, combined, dried over anhydrous sodium sulfate, filtered and concentrated to give a residue, which was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1) to give methyl 3-(5-bromo-2-nitrophenylamino)-2-methylpropanoate as a light yellow solid (8 g, 59%).

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 42.7 mmol, 9.4 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | methyl 3-amino-2-methylpropanoate | 42.7 mmol, 5 g | NCC(C(=O)OC)C | C5H11NO2
reactant | potassium carbonate | 85.4 mmol, 11.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | methyl 3-(5-bromo-2-nitrophenylamino)-2-methylpropanoate | 8 g, 59% | BrC=1C=CC(=C(C1)NCC(C(=O)OC)C)[N+](=O)[O-] | C11H13BrN2O4
